US05525726
k) [1R-(1α, 2β, 3α)]-2-Amino-9-[2,3-bis(hydroxymethyl) -cyclobutyl]-1,9-dihydro-6H-purin-6-one
A solution of [1S-(1α, 2β, 3α)]-3-[2-amino -6-(phenylmethoxy)-9H-purin-9-yl]-1,2-cyclobutanedimethanol, dibenzoate ester (20.0 g.) in 550 ml. of methanol under argon was treated with 5 ml. of 25% sodium methoxide in methanol and heated at 40° C. for 2 hours. Aqueous hydrochloric acid (3N, 275 ml.) was then added to the reaction mixture, and heating was continued at 50° C. for 2 hours. This mixture was concentrated to 100 ml. and the solution was transferred to a separatory funnel, with addition of another 100 ml. of water. The solution was extracted with ether (3×100 ml.) and the pH of the aqueous layer was adjusted to 8.5 with the slow addition of 360 ml. of 2N potassium hydroxide. The resulting thick precipitate was filtered and the damp solid was recrystallized by dissolving in 200 ml. of hot water, filtering while hot, and chilling at 5° C. overnight. Drying in vacuo over phosphorus pentoxide gave 7.65 g. of an impure white solid. Chromatography on 750 ml. of CHP-20P resin with gradient elution using acetonitrile and water, concentration of the pertinent product fractions until turbid, and chilling this turbid solution for 1 hour at 0° C. gave crystals which were filtered. Drying in vacuo at room temperature over phosphorus pentoxide gave 6.3 g. of the title compound as a white crystalline solid, m. p. >270° C., [α]D =-27° (c=1.0, DMSO).

reactant | 3-[2-amino -6-(phenylmethoxy)-9H-purin-9-yl]-1,2-cyclobutanedimethanol | NC1=NC(=C2N=CN(C2=N1)C1C(C(C1)CO)CO)OCC1=CC=CC=C1 | C18H21N5O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrochloric acid | 3N, 275 ml | Cl | ClH
reactant | DMSO | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
product | 2-Amino-9-[2,3-bis(hydroxymethyl) -cyclobutyl]-1,9-dihydro-6H-purin-6-one | NC=1NC(C=2N=CN(C2N1)C1C(C(C1)CO)CO)=O | C11H15N5O3
